US06589967B1
0.57 g (3.64 mmol) of 2-fluoro-6-methoxybenzyl alcohol was dissolved in 10 ml of benzene, and the resultant solution was added with 0.56 g (4.73 mmol) of thionyl chloride under a room temperature. The obtained solution was stirred for 1 hour at a room temperature to complete a reaction. The reacted solution was then condensed under reduced pressure to obtain a crude product of 2-fluoro-6-methoxybenzyl chloride.

reactant | 2-fluoro-6-methoxybenzyl alcohol | 3.64 mmol, 0.57 g | FC1=C(CO)C(=CC=C1)OC | C8H9FO2
reactant | thionyl chloride | 4.73 mmol, 0.56 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 2-fluoro-6-methoxybenzyl chloride | FC1=C(CCl)C(=CC=C1)OC | C8H8ClFO
